US08877801B2
To a 30 mL screw cap vial, (E)-tert-butyl 3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (100 mg, 0.204 mmol) was dissolved in 4M HCl in dioxane (153 μl, 0.612 mmol) and the reaction mixture was stirred for 10 min at room temperature. The reaction mixture was concentrated to dryness to afford (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (88 mg, 0.202 mmol, 99% yield). 1H NMR (400 MHz, CD3OD) δ ppm=2.25 (s, 3H) 3.78 (s, 3H) 6.21 (d, J=15.66 Hz, 1H) 6.68-6.84 (m, 3H) 6.84-6.92 (m, 2H) 7.16-7.29 (m, 2H) 7.31-7.41 (m, 3H) 7.46 (d, J=16.17 Hz, 1H).

reactant | (E)-tert-butyl 3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.204 mmol, 100 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)OC(C)(C)C)C | C29H27FO4S
reactant | dioxane | 0.612 mmol, 153 μl | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.202 mmol, 88 mg, 99% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)O)C | C25H19FO4S
